US08431607B2
(4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((5-(2-morpholinoethyl)-2H-tetrazol-2-yl)methyl)oxazolidin-2-one
A solution of (4S,5S)-3-(4-chlorophenyl)-5-((5-(2-hydroxyethyl)-2H-tetrazol-2-yl)methyl)-4-(3-methoxyphenyl)oxazolidin-2-one (47 mg, 0.11 mmol) in DCM is cooled to 0° C. and treated with methanesulfonyl chloride (10 μL, 0.13 mmol) followed by triethylamine (36 μL, 0.26 mmol). After 30 min., the reaction is quenched with water and extracted with DCM, then dried over Na2SO4, filtered, and concentrated to give the crude product. The crude product is then dissolved in DMF (1 mL) and treated with excess morpholine (48 μL, 0.55 mmol) and heated to 100° C. overnight. The cooled reaction is then quenched with water, basified to pH 10 and extracted with EtOAc. The crude product is purified by preparative HPLC (C-18, 10-90% ACN/water (0.05% TFA)) to give the title compound. 1H NMR (acetone-d6, 400 MHz) δ 7.47-7.43 (m, 2H), 7.34-7.29 (m, 3H), 7.04 (app t, J=2.0 Hz, 1H), 7.00-6.98 (app d, J=7.7 Hz, 1H), 6.90 (ddd, J=8.3, 2.6, 0.9 Hz, 1H), 5.61 (d, J=5.0 Hz, 1H), 5.33 (dd, J=14.6, 5.6 Hz, 1H), 5.25 (dd, J=14.6, 4.1 Hz, 1H), 4.99 (ddd, J=5.6, 5.1, 4.2 Hz, 1H), 3.78 (s, 3H), 3.55 (t, J=4.6 Hz, 4H), 2.99-2.93 (m, 2H), 2.59-2.55 (m, 2H), 2.40-2.37 (m, 4H); HPLC-MS calculated C24H27ClN6O4 (M+H+) 499.2, found 499.2.

reactant | (4S,5S)-3-(4-chlorophenyl)-5-((5-(2-hydroxyethyl)-2H-tetrazol-2-yl)methyl)-4-(3-methoxyphenyl)oxazolidin-2-one | 0.11 mmol, 47 mg | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CN1N=C(N=N1)CCO)=O | C20H20ClN5O4
reactant | methanesulfonyl chloride | 0.13 mmol, 10 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.26 mmol, 36 μL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.55 mmol, 48 μL | N1CCOCC1 | C4H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((5-(2-morpholinoethyl)-2H-tetrazol-2-yl)methyl)oxazolidin-2-one | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CN1N=C(N=N1)CCN1CCOCC1)=O | C24H27ClN6O4
